US04448962
A mixture of 1-(2-fluoroethyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (0.72 g) (2.5 millimole), N-methylpiperazine (1.25 g) (12.5 millimole) and 2 ml pyridine was heated at 135°-145° C. for 10 hours. After cooling, the mixture was evaporated under vacuum. The residue was acidified with acetic acid. The undissolved matter was filtered off. The filtrate was neutralized with an aqueous solution of caustic soda. The presipitate was filtered, washed and dried and recrystallized from a mixture of DMF and ethanol. 0.50 g (57%) of 1-(2-fluoroethyl)-6-fluoro-7-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid was obtained.

reactant | 1-(2-fluoroethyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 2.5 millimole, 0.72 g | FCCN1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C12H8ClF2NO3
reactant | N-methylpiperazine | 12.5 millimole, 1.25 g | CN1CCNCC1 | C5H12N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-fluoroethyl)-6-fluoro-7-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.50 g, 57% | FCCN1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)C(=O)O | C17H19F2N3O3
